US08492549B2
[3-Allyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]methanol
Prepared from 3-allyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-piperidine-3-carboxylic acid ethyl ester using the procedure described for [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]methanol.

reactant | 3-allyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)CC=C | C20H27NO4
reactant | [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]methanol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)CO | C16H23NO3
product | [3-Allyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]methanol | C(C=C)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)CO | C18H25NO3
